US04841077
Ethyl 4',5,7-trihydroxy-2-isoflavonecarboxylate (100 mg) was added to 10 ml of isopropanol saturated with HCl gas, and the mixture was heated at 70° C. with stirring for five hours. The solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (eluent: chloroform), and the solid thus obtained was recrystallized from a chloroform/methanol mixed solvent, giving 60 mg of isopropyl 4',5,7-trihydroxy-2-isoflavonecarboxylate.

reactant | Ethyl 4',5,7-trihydroxy-2-isoflavonecarboxylate | 100 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)C(=O)OCC)C=C1 | C18H14O7
reactant | HCl | Cl | ClH
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | isopropyl 4',5,7-trihydroxy-2-isoflavonecarboxylate | 60 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)C(=O)OC(C)C)C=C1 | C19H16O7
